US05849921
1-(3-Dimethylaminophenyl)-1-(4-methyl-5-thiazolyl)-methanol
The title compound was prepared from 4-methyl-5-thiazolecarbaldehyde and 3-bromo-N,N-dimethylaniline using the method of Example 32. M.p. 135°-138° C.

reactant | 4-methyl-5-thiazolecarbaldehyde | CC=1N=CSC1C=O | C5H5NOS
reactant | 3-bromo-N,N-dimethylaniline | BrC=1C=C(N(C)C)C=CC1 | C8H10BrN
product | 1-(3-Dimethylaminophenyl)-1-(4-methyl-5-thiazolyl)-methanol | CN(C=1C=C(C=CC1)C(O)C1=C(N=CS1)C)C | C13H16N2OS
